US05422353
A solution of 4.8 g (0.039 mol) of 4-methoxymethyl-pyridine in 25 ml of acetonitrile is mixed with 6.6 g (0.047 mol) of methyl iodide and stirred for 5 hours at ambient temperature. Then the partially precipitated quaternary salt is precipitated by the addition of ethyl acetate. 9.1 g (88% of theory) of 4-methoxymethyl-1-methyl-pyridinium iodide are obtained, m.p. 105°-108° C.

reactant | 4-methoxymethyl-pyridine | 0.039 mol, 4.8 g | COCC1=CC=NC=C1 | C7H9NO
reactant | methyl iodide | 0.047 mol, 6.6 g | CI | CH3I
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 4-methoxymethyl-1-methyl-pyridinium iodide | 9.1 g, 88% | [I-].COCC1=CC=[N+](C=C1)C | InChI=1S/C8H12NO.HI/c1-9-5-3-8(4-6-9)7-10-2;/h3-6H,7H2,1-2H3;1H/q+1;/p-1
